US06897231B2
D. 3-[3-(2-Piperidylethoxy)phenyl]-1H-indazole-5-carboxamide
3-[3-(2-Piperidylethoxy)phenyl]-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (0.61 g, 1.4 mmol) was suspended in 10 mL of 4 M HCl in dioxane and the suspension was stirred at room temperature for 18 h. The reaction was quenched with saturated aqueous solution of NaHCO3 and extracted with EtOAc. The organic layer was dried (Na2SO4) and filtered. The filtrate was concentrated and purification of the residue by preparative HPLC (20-80% acetonitrile in water) furnished 65 mg (13% yield) of the title compound. 1H NMR (DMSO-d6) δ 13.4 (br s, 1H), 8.6 (s, 1H), 8.2 (s, 1H), 7.94 (dd, 1H), 7.62 (m, 2H), 7.5 (m, 1H), 7.45 (t, 1H), 7.32 (br s, 1H), 7.05 (dd, 1H), 4.18 (t, 2H), 2.7 (m, 2H), 2.5 (m, 4H), 1.5 (m, 4H), 1.4 (m, 2H); ES-MS (m/z) 365 [M+H]+.

reactant | 3-[3-(2-Piperidylethoxy)phenyl]-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 1.4 mmol, 0.61 g | N1C(CCCC1)CCOC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C26H32N4O3
solvent | HCl | 4 M, 10 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[3-(2-Piperidylethoxy)phenyl]-1H-indazole-5-carboxamide | 65 mg, 13% yield | N1C(CCCC1)CCOC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N | C21H24N4O2
